US07456174B2
Step 1: 3-[tert-Butyl-(2-ethoxycarbonyl-ethyl)-amino]-propionic acid ethyl ester
A mixture of ethyl acrylate (0.735 mol) and tert-butyl amine (0.210 mol) was refluxed for 6 days. The crude mixture was purified by fractionated distillation in vacuo (5 mbar). One fraction was collected (boiling point: 120° C. at 5 mbar), yielding to 8.3 g of the desired product as a light yellow oil. MS (m/e): 274.4 (MH+, 100%).

reactant | ethyl acrylate | 0.735 mol | C(C=C)(=O)OCC | C5H8O2
reactant | tert-butyl amine | 0.210 mol | C(C)(C)(C)N | C4H11N
product | 3-[tert-Butyl-(2-ethoxycarbonyl-ethyl)-amino]-propionic acid ethyl ester | 8.3 g | C(C)OC(CCN(CCC(=O)OCC)C(C)(C)C)=O | C14H27NO4
